US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:, using instead 3-bromo-6-(4-(oxetan-3-yl)piperazin-1-yl)pyridazine as a starting material to afford 52.7 mg (61%) of (R)-4-((R)-1-((1-cyclopropyl-5-(6-(4-(oxetan-3-yl)piperazin-1-yl)pyridazin-3-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.12 (s, 1H), 8.04 (d, J=9.9 Hz, 1H), 7.80 (d, J=1.1 Hz, 1H), 7.62 (m, 2H), 7.35 (d, J=9.9 Hz, 1H), 4.81 (m, 1H), 4.52 (m, 4H), 3.69 (m, 5H), 3.41 (m, 2H), 3.20 (m, 1H), 2.54 (m, 1H), 2.37 (m, 6H), 1.34 (d, J=6.3 Hz, 3H), 1.09 (m, 4H). MS (ESI+) m/z 504.3 (M+H).

reactant | (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C=2C=CC=1OCCNC1N2)O[C@H](C)[C@@H]2CC(NC2)=O | C23H25N5O3
reactant | 3-bromo-6-(4-(oxetan-3-yl)piperazin-1-yl)pyridazine | BrC=1N=NC(=CC1)N1CCN(CC1)C1COC1 | C11H15BrN4O
product | (R)-4-((R)-1-((1-cyclopropyl-5-(6-(4-(oxetan-3-yl)piperazin-1-yl)pyridazin-3-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 52.7 mg, 61% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C=2N=NC(=CC2)N2CCN(CC2)C2COC2)O[C@H](C)[C@@H]2CC(NC2)=O | C27H33N7O3
